US09315521B2
To a solution of sodium borohydride (324 mg, 8.6 mmol) in methanol (20 mL) was added a solution of 4-(trifluoromethyl)pyridine-3-carbaldehyde (1.0 g, 5.7 mmol) in methanol (10 mL) at 0° C. The mixture was stirred for 1.5 hours at room temperature. The solvent was evaporated, water was added, and the mixture was extracted 3 times with ethyl acetate. The combined organic phases were washed with brine and dried over sodium sulfate. After evaporation of the solvent, [4-(trifluoromethyl)pyridin-3-yl)methanol was obtained as an oil (980 mg, 97% yield) and used in the next step without further purification.

reactant | sodium borohydride | 8.6 mmol, 324 mg | [BH4-].[Na+]
reactant | 4-(trifluoromethyl)pyridine-3-carbaldehyde | 5.7 mmol, 1.0 g | FC(C1=C(C=NC=C1)C=O)(F)F | C7H4F3NO
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | [4-(trifluoromethyl)pyridin-3-yl)methanol | FC(C1=C(C=NC=C1)CO)(F)F | C7H6F3NO
